US04661438
5-Hydroxy-2-methyl-3H-benzotellurazolium Chloride
1,1,1-Trichloro-6-hydroxy-3-methyl-2,1,4-benzoxatellurazinium, inner salt (Example 11) (19.2 g=0.05 mole) was dissolved in methanol (200 ml) with addition of sodium hydroxide (4 g) in water (20 ml). The reduction was carried out under a nitrogen atmosphere, using sodium borohydride (4.3 g=0.11 mole), after the addition of which the solution became clear. The reaction mixture was cooled to ≃10° C., and concentrated hydrochloric acid (65 ml) was added in one portion. Considerable black precipitate (11.7 g) formed, which was collected by filtration. The filtrate was evaporated to 50 ml and chilled to give a second crop (12.3 g). The products were recrystallized from isopropanol to give a combined yield of 9.45 g, 63.9% of theory, cream colored powder, m.p. 125°-132° C. (dec.).

reactant | 1,1,1-Trichloro-6-hydroxy-3-methyl-2,1,4-benzoxatellurazinium | Cl[TeH]1(OC(=[NH+]C2=C1C=CC(=C2)O)C)(Cl)Cl
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | sodium borohydride | 0.11 mole, 4.3 g | [BH4-].[Na+]
reactant | hydrochloric acid | 65 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 5-Hydroxy-2-methyl-3H-benzotellurazolium Chloride | 11.7 g | [Cl-].OC=1C=CC2=C([NH2+]C([Te]2)C)C1 | InChI=1S/C8H9NOTe.ClH/c1-5-9-7-4-6(10)2-3-8(7)11-5;/h2-5,9-10H,1H3;1H
